US08258160B2
Synthesis of 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylic acid
A mixture of butyl 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylate (0.23 g, 0.64 mmol) and 1 N aqueous sodium hydroxide (3.8 mL, 3.8 mmol) in ethanol (7.6 mL) was stirred at reflux for 1 h. The reaction mixture was cooled to 0° C. and acidified with glacial acetic acid to pH 5-6, and diluted with water (25 mL). The aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a colorless solid (0.18 g, 96%): 1H NMR (300 MHz, DMSO-d6) δ 12.94 (br s, 1H), 7.45 (s, 1H), 7.37-7.20 (m, 6H), 4.12 (s, 2H), 2.47 (s, 3H); MS (ES+) m/z 300.21 (M+1).

reactant | butyl 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylate | 0.64 mmol, 0.23 g | C(C1=CC=CC=C1)C1=NC(=NN1)C1=CC(=C(S1)C(=O)OCCCC)C | C19H21N3O2S
reactant | sodium hydroxide | 3.8 mmol, 1 N, 3.8 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 7.6 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
product | 5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxylic acid | 0.18 g, 96% | C(C1=CC=CC=C1)C1=NC(=NN1)C1=CC(=C(S1)C(=O)O)C | C15H13N3O2S
